US08975254B2
c) S)-2-((1H-imidazol-1-yl)methyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide
Sodium hydride (11.87 mg, 0.297 mmol) was added into a flask under nitrogen atmosphere. The flask was cooled to 0° C. and DMF was added through a septum. Imidazole (13.47 mg, 0.198 mmol) was added and the mixture was stirred for 60 min in RT. The mixture was again cooled to 0° C. and (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(chloromethyl)oxazole-4-carboxamide (80 mg, 0.198 mmol) in DMF was added dropwise. The reaction mixture was stirred overnight in RT. DMF was evaporated and the resulting crude product was dissolved in DCM, washed with brine and evaporated. The product was triturated using diethyl ether and purified by Flash-chromatography. Yield 8.23%. 1H-NMR (400 MHz; CDCl3): δ 1.24 (d, 3H), 4.29 (dd, 1H), 4.41 (dd, 1H), 4.58 (m, 1H), 5.26 (s, 2H), 6.64 (d, 1H), 7.00 (t, 1H), 7.11 (t, 1H), 7.49 (d, 1H), 7.60 (s, 1H), 7.61 (d, 1H), 7.68 (d, 1H), 7.78 (dd, 1H), 8.08 (d, 1H), 8.17 (s, 1H).

reactant | Sodium hydride | 0.297 mmol, 11.87 mg | [H-].[Na+]
reactant | Imidazole | 0.198 mmol, 13.47 mg | N1C=NC=C1 | C3H4N2
reactant | (S)—N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)-2-(chloromethyl)oxazole-4-carboxamide | 0.198 mmol, 80 mg | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C=1N=C(OC1)CCl | C18H15Cl2N5O2
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-((1H-imidazol-1-yl)methyl)-N-(1-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propan-2-yl)oxazole-4-carboxamide | Yield 8.23% | N1(C=NC=C1)CC=1OC=C(N1)C(=O)NC(CN1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl)C | C21H18ClN7O2
